data/pmechdb/original/mc_train_fold0/raw/train.txt
B1(OC2=C(O1)C=CC=C2)C3=C([O+:23]=[C:22](C4=C3C=CC=C4)[O:21][CH3:20])CC.[Cl-:10]>>B1(OC2=C(O1)C=CC=C2)C3=C([O:23][C:22](=[O:21])C4=C3C=CC=C4)CC.[CH3:20][Cl:10] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)O[K].C1=CC=C(C=C1)[O-:10].CC(=O)OC>>[H:20][O:10]C1=CC=CC=C1.C(=O)([O-:21])O[K].CC(=O)OC 10=20;20,21=21
[H:20][C:21]1(C=CC(=C[C+:22]1OC)[N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CO[C:22]1=[C:21](C=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] 10=20;20,21=21,22
C[O:10][CH+:20]O>>C[O+:10]=[CH:20]O 10=20,
[CH2:20]=[O:21].[C-:10]#N>>[CH2:20]([C:10]#N)[O-:21] 10=20;20,21=21
CC[N:10](CC)[C:20](C)(C#CC)[OH2+:21]>>CC[N+:10](=[C:20](C)C#CC)CC.[OH2:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2C#N)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C[CH:22]=[C:21]2S(=O)(=O)O)C(=C1)C#N 10=20;20,21=21,22
[H:20][OH2+:21].C1=CN=C(C(=C1)N=N[OH:10])Cl.[Na+].[Br-]>>[H:20][OH+:10]N=NC1=CC=CN=C1Cl.[OH2:21].[Na+].[Br-] 10=20;20,21=21
CCCCC(C)(C(C([Si:20](C)(C)C)SC1=CC=CC=C1)[O-:10])O.[Li+]>>CCCCC(C)(C1C([Si-:20]([O:10]1)(C)(C)C)SC2=CC=CC=C2)O.[Li+] 10=20,
[H:20][O:21]C12CCCCC1C(CCC2)OS(=O)(=O)C3=CC=C(C=C3)C.CC(C)(C)[O-:10].CC(C)(C)O.[K]>>[H:20][O:10]C(C)(C)C.CC1=CC=C(C=C1)S(=O)(=O)OC2CCCC3(C2CCCC3)[O-:21].CC(C)(C)O.[K] 10=20;20,21=21
[H:20][N:21]=NC1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC=C)O.[OH-:10].[K+]>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4CC=C)C(O2)C(CC5)N=[N-:21])O)C=C1.[K+] 10=20;20,21=21
CC12CCCC=C1C=C(CC2)[N:10]3CCCC3.[CH3:20][I:21]>>CC12CCCC=C1C=C(CC2)[N+:10]3(CCCC3)[CH3:20].[I-:21] 10=20;20,21=21
C[CH:20]=[O+:21]C.[OH2:10]>>C[CH:20]([OH2+:10])[O:21]C 10=20;20,21=21
C([CH2:20][O:21]S(=O)Cl)C(=O)O.[Cl-:10]>>C([CH2:20][Cl:10])C(=O)O.[O-:21]S(=O)Cl 10=20;20,21=21
C[N+:21]1=[CH:20]C(CC1=O)(CC[C:11](=[CH2:10])C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC.CC[NH+](CC)CC.CS(=O)(=O)[O-].[Cl-]>>C[N:21]1[CH:20]2[CH2:10][C+:11](CCC2(CC1=O)C3=CC(=C(C=C3)OC)OC)C[Si](C)(C)C.CC[NH+](CC)CC.CS(=O)(=O)[O-].[Cl-] 10,11=10,20;20,21=21
[Li:20]N(C(C)C)C(C)C.CC(CC(C)C(=[O:10])C)CN=[N+]=[N-]>>[Li-:20](N(C(C)C)C(C)C)[O+:10]=C(C)C(C)CC(C)CN=[N+]=[N-] 10=20,
CC[SH:10].[CH2:20]=[CH:21][CH:22]=[OH+:23]>>CC[SH+:10][CH2:20][CH:21]=[CH:22][OH:23] 10=20;22,23=23;20,21=21,22
COC1=CC2=C(CCN3C24CC(C=CC4=CC3=O)[O+](C)[K:20])C=C1.[OH-:10].O.[I-]>>COC1=CC2=C(CCN3C24CC(C=CC4=CC3=O)[O+](C)[K-:20][OH:10])C=C1.O.[I-] 10=20,
[H:20][N+:21]1=CC=CC=C1.CCOC(=O)C12CCC(C1(C)C)CC2(NCC3=CC=CC=C3)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C1(CC2CCC1(C2(C)C)C(=O)OCC)NCC3=CC=CC=C3.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][NH+:21](CC)CC=C[N-]C.[OH2:10]>>[H:20][OH2+:10].CC[NH:21]CC=C[N-]C 10=20;20,21=21
[H:20][O:21]C(C)CC.[H:10][Na:11]>>CCC(C)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
CC[O:21][C:20]1(CCCO1)[O-:10]>>CC[O-:21].C1C[C:20](=[O:10])OC1 10=20;20,21=21
C(C(=[O:10])O)Cl.O[Mg:20]O>>C(C(=[O+:10][Mg-:20](O)O)O)Cl 10=20,
[H:20][O+:21](C)C1CC2C3CCC(C3(CCC2C4(C15CC5CC4)C)C)CCC.CC(=O)[O-:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][O:10]C(=O)C.CCCC1CCC2C1(CCC3C2CC(C45C3(CCC4C5)C)[O:21]C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COC3CCCCC3)O>>CC1=CC=C[N:21]=C1.C1CCC(CC1)OCC2C(C[CH:20]=[O+:10]2)O 10=20;20,21=21
C[CH:20]1[O:10]CCC[O+:21]1[Si](C)(C)C>>C[CH:20]=[O+:10]CCC[O:21][Si](C)(C)C 10=20;20,21=21
CC(=O)OC(C[OH:10])C(C1=CC2=CCC3(C(C2(CCC1=C)OCOCCOC)CCC3O[Si](C)(C)C(C)(C)C)C)OC(=O)C.CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)[O-]>>CC(=O)OC(C[OH+:10][I:20]1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)OC(=O)C)C(C3=CC4=CCC5(C(C4(CCC3=C)OCOCCOC)CCC5O[Si](C)(C)C(C)(C)C)C)OC(=O)C.CC(=O)[O-] 10=20,
[H:20][C:21]1(C(OC(=O)C1=C(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F)[C:22](=[O:23])OC.CC[O-:10].[HH].CO.[Na+]>>[H:20][O:10]CC.CO[C:22](=[C:21]1C(OC(=O)C1=C(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC(=CC(=C4)C(F)(F)F)C(F)(F)F)[O-:23].[HH].CO.[Na+] 10=20;22,23=23;20,21=21,22
[H:20][O:21]CC=CC1=CC=C(C=C1)Cl.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C1=CC(=CC=C1C=CC[O-:21])Cl.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
COC1=C(C=C(C=C1)CC/[N:10]=[C:20](\C2=CC=C(C=C2)Br)/[O:21]P(=O)(Cl)Cl)OC>>COC1=C(C=C(C=C1)CC[N+:10]#[C:20]C2=CC=C(C=C2)Br)OC.[O-:21]P(=O)(Cl)Cl 10=20;20,21=21
CC1([CH:20]=[N+:21](C(=O)C1SC)CC[C:11]2=[CH:10]C=C[C:13](=[CH:12]2)[O:14]C)C(=O)OC.CS(=O)(=O)[O-].O>>CC1([CH:20]2[CH:10]3C=C[C:13](=[O+:14]C)[CH:12]=[C:11]3CC[N:21]2C(=O)C1SC)C(=O)OC.CS(=O)(=O)[O-].O 10,11=10,20;20,21=21;12,13=11,12;14=13
C[P+](C)(C)[CH-:10][CH2:20][OH+:21][K]>>C[P+](C)(C)[CH:10]=[CH2:20].[OH:21][K] 10=20;20,21=21
CC(C)[O-:10].[AlH3:20]>>CC(C)[O:10][AlH3-:20] 10=20,
[CH3:10][Mg:11]Br.C[P+:20]([Mg]Br)(Cl)Cl>>C[P:20]([CH3:10])([Mg]Br)(Cl)Cl.[Mg+:11]Br 10,11=10,20
[Li+:20].CCCC(=[O:10])N(C)CCC.[BH-](CC)(CC)CC.[AlH4-]>>[Li:20][O+:10]=C(CCC)N(C)CCC.[BH-](CC)(CC)CC.[AlH4-] 10=20,
CCCC1CC(=[N+]2C(COC2(C1)C)C3=CC=CC=C3)[S-:10].CCCOC(=O)[CH2:20][Br:21]>>CCCC1CC(=[N+]2C(COC2(C1)C)C3=CC=CC=C3)[S:10][CH2:20]C(=O)OCCC.[Br-:21] 10=20;20,21=21
